US07470710B2
(RS)-1-[5(4-Fluoro-phenyl)2-methyl-thiazol-4-yl]-1-[2-(1H-indol-2-ylmethyl)-piperidin-1-yl]-methanone
(RS)-1-[5-(4-Fluoro-phenyl)2-methyl-thiazol-4-yl]-1-{2-[1-(2-trimethylsilanyl-oxymethyl)-1H-indol-2-ylmethyl]-piperidin-1-yl}-methanone (130 mg) was prepared from (RS)-2-piperidin-2-ylmethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole, D68 (520 mg) and 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl chloride (512 mg) according to a procedure similar to that for Example 1. A stirring solution of the above amide (125 mg) in dry THF (5 ml) was treated with a solution of tetrabutylammonium fluoride (2.2 mmol) in THF (5 ml). Once tlc indicated the reaction had gone to completion, the reaction mixture was poured into water and the product extracted with ethyl acetate. The combined organics were washed with brine, dried (Na2SO4) and the solvent removed in vacuo. Chromatography (silica gel, 0-100% pentane-ethyl acetate followed by preparative tlc, 40% ethyl acetate-pentane) afforded the title compound as a white solid (2.5 mg).

reactant | (RS)-2-piperidin-2-ylmethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole | N1C(CCCC1)CC=1N(C2=CC=CC=C2C1)COCC[Si](C)(C)C | C20H32N2OSi
reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl chloride | 512 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)Cl | C11H7ClFNOS
reactant | tetrabutylammonium fluoride | 2.2 mmol | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (RS)-1-[5(4-Fluoro-phenyl)2-methyl-thiazol-4-yl]-1-[2-(1H-indol-2-ylmethyl)-piperidin-1-yl]-methanone | 2.5 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1C(CCCC1)CC=1NC2=CC=CC=C2C1 | C25H24FN3OS
